US03992377
To a solution of 19 g. (40 mmole) of p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate in 300 ml. of dry DMF was added 15 g. (56 mmole) of phosphorus tribromide and the reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into a mixture of ethyl acetate and water and the organic phase was separated and washed repeatedly with water and dried over magnesium sulfate. The dried organic phase was evaporated in vacuo todryness. The crude reaction product residue weighing about 9 g. was purified by chromatography over 500 g. of silica gel using ethyl acetate-hexane (55:45 v:v) as eluent. The eluate was evaporated to drynessunder reduced pressure and the product, p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-bromo-3-cephem-4-carboxylate was obtained crystalline by the triturating the dry residue with diethyl ether.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate | 40 mmole | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H17N3O7S2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | phosphorus tribromide | 56 mmole | P(Br)(Br)Br | Br3P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-bromo-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Br)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16BrN3O6S2
